US04933355
2-(4-Methyl-1-piperazinyl)thiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 4.0 g of ethyl 2-(4-methyl-1-piperazinyl)-thiazole-4-carboxylate, 0.6 g of lithium aluminum hydride and 50 ml of tetrahydrofuran, giving the title compound as white prisms.

reactant | ethyl 2-(4-methyl-1-piperazinyl)-thiazole-4-carboxylate | 4.0 g | CN1CCN(CC1)C=1SC=C(N1)C(=O)OCC | C11H17N3O2S
reactant | lithium aluminum hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-Methyl-1-piperazinyl)thiazol-4-ylmethanol | CN1CCN(CC1)C=1SC=C(N1)CO | C9H15N3OS
